US04703053
A mixture of 1.34 g (0.012 mole) of potassium tert-butoxide in 50 ml of dimethyl sulfoxide (under a nitrogen atmosphere) is treated with 2.3 g (0.0066 mole) of crude 7-methoxy-3-(nonyloxy)-2-benzofurancarboxylic acid, methyl ester. After stirring at room temperature for three hours, the mixture is added to 400 g of ice/water. The new mixture is extracted with dichloromethane (3×250 ml), and the aqueous layer is cooled in ice and acidified with 4.0 N hydrochloric acid. The semisolid precipitate that forms is removed by extracting with dichloromethane (3×150 ml). The combined extracts are backwashed with water (2×200 ml), dried (anhydrous sodium sulfate), and evaporated (vacuum) to yield 7-methoxy-3-(nonyloxy)-2-benzofurancarboxylic acid (0.7 g; 32% yield) as an oil. The crude oil is converted to the corresponding 2-benzofurancarbamoyltetrazole without further purification.

reactant | potassium tert-butoxide | 0.012 mole, 1.34 g | CC(C)([O-])C.[K+]
reactant | 7-methoxy-3-(nonyloxy)-2-benzofurancarboxylic acid, methyl ester | 0.0066 mole, 2.3 g | COC1=CC=CC=2C(=C(OC21)C(=O)OC)OCCCCCCCCC | C20H28O5
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 7-methoxy-3-(nonyloxy)-2-benzofurancarboxylic acid | 0.7 g, 32% yield | COC1=CC=CC=2C(=C(OC21)C(=O)O)OCCCCCCCCC | C19H26O5
